US09328067B2
3-((2-amino-4-chlorophenyl)thio)-N,N-diethylpropanamide
Following General Procedure A, the title compound (1.0 g, 88%) was prepared from 2-amino-4-chlorobenzenethiol (660 mg, 4.13 mmol), crude 3-bromo-N,N-diethylpropanamide (860 mg, 6.60 mmol) and K2CO3 (2.9 g, 20.67 mmol) in DMF (20 ml).

reactant | 2-amino-4-chlorobenzenethiol | 4.13 mmol, 660 mg | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
reactant | 3-bromo-N,N-diethylpropanamide | 6.60 mmol, 860 mg | BrCCC(=O)N(CC)CC | C7H14BrNO
reactant | K2CO3 | 20.67 mmol, 2.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3-((2-amino-4-chlorophenyl)thio)-N,N-diethylpropanamide | 1.0 g, 88% | NC1=C(C=CC(=C1)Cl)SCCC(=O)N(CC)CC | C13H19ClN2OS
